US05382590
Following a procedure analogous to that described in Example 106, but using 1.0 g of 2-amino-N-[2-(8-aza-1,4-dioxaspiro[4,5]decan-8-yl)-2-oxoethyl]-N-phenylacetamide and 0.4 g of 3-methylphenyl isocyanate as the starting material, 0.6 g of N-[2-(8-aza-1,4-dioxaspiro[4,5]decan-8-yl)-2-oxoethyl]-2-[3-(3-methylphenyl)ureido]-N-phenylacetamide melting at 130° C is obtained after recrystallization from a cyclohexane/ethyl acetate mixture (50/50 by volume).

reactant | 2-amino-N-[2-(8-aza-1,4-dioxaspiro[4,5]decan-8-yl)-2-oxoethyl]-N-phenylacetamide | 1.0 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)N1CCC2(OCCO2)CC1 | C17H23N3O4
reactant | 3-methylphenyl isocyanate | 0.4 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-[2-(8-aza-1,4-dioxaspiro[4,5]decan-8-yl)-2-oxoethyl]-2-[3-(3-methylphenyl)ureido]-N-phenylacetamide | 0.6 g | O1CCOC12CCN(CC2)C(CN(C(CNC(=O)NC2=CC(=CC=C2)C)=O)C2=CC=CC=C2)=O | C25H30N4O5
